US05492916
Step A: 3-Carbobenzyloxyaminopyridine
To a solution of 3-aminopyridine (10 g, 0.106 mol) and triethyl amine (16.3 mL, 0.117 mol) in dichloromethane (100 mL) at 0° C., was added benzyl chloroformate (15.2 mL, 0.106 mol) slowly. The reaction mixture was stirred overnight and was washed with water, saturated NaHCO3, dried over MgSO4, and evaporated. The residue was purified on a silica gel column to give the product (9.51 g)

reactant | 3-aminopyridine | 0.106 mol, 10 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethyl amine | 0.117 mol, 16.3 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.106 mol, 15.2 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-Carbobenzyloxyaminopyridine | 9.51 g | C(=O)(OCC1=CC=CC=C1)NC=1C=NC=CC1 | C13H12N2O2
